US03969368
Ethyl-3-(2-phenyl-5-chloro-1,3-benzodioxol-2-yl)-propionate.
11.7 g. of (2-phenyl-5-chloro-1,3-benzodioxol-2-yl)-acetic acid mixed with 50 cc. of anhydrous benzene are refluxed with 10 cc. of SOCl2 for 3 hours. The solvent and the excess of SOCl2 are removed under vacuum. The residual oil mixed with 150 cc. of anhydrous ether is added in drops to an ether solution of diazomethane, which is ice cooled to maintain the temperature under 2°-3°C. After 24 h, the ether is removed under vacuum and the residue is mixed with 100 cc. of ethanol. The mixture is heated at 50°C., and 2 g. of Ag2O are added. After 2 hours, the product is treated with animal charcoal, filtered and dried. It is then fractionated and the desired product boils at 200°-207°C./0.4 mm.

reactant | (2-phenyl-5-chloro-1,3-benzodioxol-2-yl)-acetic acid | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)Cl)CC(=O)O | C15H11ClO4
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Ethyl-3-(2-phenyl-5-chloro-1,3-benzodioxol-2-yl)-propionate | C(C)OC(CCC1(OC2=C(O1)C=CC(=C2)Cl)C2=CC=CC=C2)=O | C18H17ClO4
